US04695567
7,7-Dimethyl-2-(2-furanyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one.
5.7 g. (20 mmol) 6-furanoylamino-5-amino-3,3-dimethylindolin-2-one are heated for 1 hour at 80° C. in 200 ml. ethanol and 40 ml. concentrated hydrochloric acid. The solution is evaporated to dryness, rendered alkaline with 2N aqueous ammonia solution and extracted with methylene chloride. The organic phase is evaporated and the residue purified over silica gel (elution agent: methylene chloride/ammonia-saturated methanol 20:1 v/v). There is obtained 1.8 g. (33.3% of theory) of the desired product; m.p. 311°-316° C. after recrystallisation from ethyl acetate.

reactant | 6-furanoylamino-5-amino-3,3-dimethylindolin-2-one | 20 mmol | O1C(=CC=C1)C(=O)NC1=C(C=C2C(C(NC2=C1)=O)(C)C)N | C15H15N3O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 7,7-Dimethyl-2-(2-furanyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | CC1(C(NC2=CC3=C(N=C(N3)C=3OC=CC3)C=C21)=O)C | C15H13N3O2
